US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)-PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-PHENYLPROPYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-phenylpropyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (15% yield). 1H NMR (500 MHz, CDCl3) δ 8.05, 7.93, 7.74, 7.63, 7.56, 7.39, 7.29-7.13, 6.92, 4.12-3.29, 2.68, 2.02-1.83.

reactant | 6-chloropyridazine-3-carboxylic acid (3-phenylpropyl)amide | C1(=CC=CC=C1)CCCNC(=O)C=1N=NC(=CC1)Cl | C14H14ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)-PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-PHENYLPROPYL)AMIDE | C1(=CC=CC=C1)CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C26H26F3N5O2
